US04341784
A mixture containing 16 g of 1-ethyl-6-fluoro-7-hydroxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid and 160 ml of phosphoryl chloride was heated under reflux for 20 minutes with stirring. After evaporation of excess phosphoryl chloride under reduced pressure, the residue was triturated with ice-water and the mixture was stirred for 20 minutes. The resulting precipitate was collected by filtration, washed with water, dried, and recrystallized from acetonitrile to give 14 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 265°-267° C.

reactant | 1-ethyl-6-fluoro-7-hydroxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 16 g | C(C)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)O | C11H9FN2O4
reactant | phosphoryl chloride | 160 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 14 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
